US03969419
Ethyl 3-(2-fluoro-4-biphenylyl)-2-butenoate
42.8 gm (0.20 mol) of 4-acetyl-2-fluoro-biphenyl were added in small portions, while stirring, to a Reformatsky reagent prepared from 57.5 gm (0.88 mol) of zinc and 73.5 gm (0.44 mol) of bromoacetic acid ethyl ester in 500 ml of absolute ether/tetrahydrofuran (1:1), and the resulting mixture was refluxed for one hour. Then, 1 liter of water was added, the reaction mixture was acidified with dilute hydrochloric acid, and the organic layer was separated, extracted again with water and dried over sodium sulfate. The raw 3-(2-fluoro-4-biphenylyl)-3-hydroxy-butyric acid ethyl ester remaining after the solvent had been distilled off was refluxed in 330 ml of benzene with 45 gm (0.293 mol) of phosphorus trichloride for 10 minutes, whereupon the solvent was distilled off, water was added to the residue and the precipitated oil was taken up in ether. The ether solution was washed with water and an aqueous 5% sodium bicarbonate solution until neutral, dried, filtered through charcoal, and the solvent was distilled out of the filtrate. The residue, raw 3-(2-fluoro-4-biphenylyl)-2-butenoic acid ethyl ester (39.9 gm, 70% of theory), was used as a starting compound without further purification.

reactant | 4-acetyl-2-fluoro-biphenyl | 0.20 mol, 42.8 gm | C(C)(=O)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C14H11FO
reactant | bromoacetic acid ethyl ester | 0.44 mol, 73.5 gm | C(C)OC(CBr)=O | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
reactant | phosphorus trichloride | 0.293 mol, 45 gm | P(Cl)(Cl)Cl | Cl3P
solvent | ether tetrahydrofuran | 500 ml | CCOCC.O1CCCC1
solvent | benzene | 330 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc | 0.88 mol, 57.5 gm | [Zn] | Zn
solvent | water | 1 liter | O | H2O
product | Ethyl 3-(2-fluoro-4-biphenylyl)-2-butenoate | FC1=C(C=CC(=C1)C(=CC(=O)OCC)C)C1=CC=CC=C1 | C18H17FO2
